US04886835
The procedure is as in Example 4 for the preparation of ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino-2,4-hexadienoate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (11.4 g), a 2M ethanolic solution of sodium ethylate (60 cc) and 4-[2-(methylthio)acetyl]pyrocatechol (7.9 g) in ethanol (60 cc). After purification on a silica column with a mixture of cyclohexane and ethyl acetate (50:50 by volume) as eluent, ethyl 6-(3,4-dihydroxyphenyl)-2-dimethylamino-5-methylthio-6-oxo-2,4-hexadienoate (2.4 g), m.p. 144° C., is obtained.

reactant | ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino-2,4-hexadienoate | C1(=CC=CC=C1)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 11.4 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 60 cc | CC[O-].[Na+]
reactant | 4-[2-(methylthio)acetyl]pyrocatechol | 7.9 g | CSCC(=O)C=1C=C(C(O)=CC1)O | C9H10O3S
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | ethyl 6-(3,4-dihydroxyphenyl)-2-dimethylamino-5-methylthio-6-oxo-2,4-hexadienoate | 2.4 g | OC=1C=C(C=CC1O)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO5S
